US03931407
1-(3-Carboxy-4-hydroxyphenyl)-2-phenylindole ##SPC38##
A mixture of 3.33 g. (0.01 mole) of 1-(3-carboxy-4-hydroxyphenyl)-2-phenyl-4,5,6,7-tetrahydroindole, 4.0 g. of 10% palladium on carbon, and 250 ml. of xylene was heated under reflux with stirring under nitrogen for 3 days, filtered, and concentrated to a solid. Trituration with cyclohexane afforded 2.4 g. (73%) of solid, m.p. 210°-212°. Recrystallization from acetic acid gave colorless crystals, m.p. 213.5°-214.5°.

reactant | 1-(3-carboxy-4-hydroxyphenyl)-2-phenyl-4,5,6,7-tetrahydroindole | 0.01 mole | C(=O)(O)C=1C=C(C=CC1O)N1C(=CC=2CCCCC12)C1=CC=CC=C1 | C21H19NO3
catalyst | palladium on carbon | [Pd] | Pd
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 1-(3-Carboxy-4-hydroxyphenyl)-2-phenylindole | C(=O)(O)C=1C=C(C=CC1O)N1C(=CC2=CC=CC=C12)C1=CC=CC=C1 | C21H15NO3
